spice
Vin 1 0 DC 0
R1 1 3 Rvalue
M1 5 3 4 4 NMOS
? Missing component
* Node Definitions
* 1 - Positive terminal of Vin
* 0 - Ground
* 3 - Node X (between R1 and op-amp input)
* 4 - Ground (common for OpAmp and source of M1)
* 5 - Vout (output node of op-amp)
.model NMOS NMOS (LEVEL=1)
.subckt OpAmpModel in- in+ out
* Op-amp model details go here
.ends OpAmpModel
.end
